US09428452B2
N-(2,4-dimethylphenyl)-3-(hydroxymethyl)-N-isobutyl-4-((tetrahydro-2H-pyran-4-yl)methoxy)benzenesulfonamide
To a stirred solution of methyl 5-(N-(2,4-dimethylphenyl)-N-isobutylsulfamoyl)-2-((tetrahydro-2H-pyran-4-yl)methoxy)benzoate (20 mg, 0.041 mmol) in tetrahydrofuran (THF) at 25° C. was added lithium triethylborohydride in THF (Superhydride®, 1.1 M, 0.037 mL, 0.041 mmol) and the reaction mixture stirring at 25° C. for 15 hours. Dilute HCl was added to reaction mixture and stirred for 10 minutes. The reaction mixture was then neutralised with base and the product was extracted into ethyl acetate (3×10 mL). The organics were combined and dried using a hydrophobic frit, then concentrated under a stream of nitrogen to give the crude product. This was purified by silica (Si) chromatography (0-50% ethyl acetate-cyclohexane gradient). The appropriate fractions were combined and concentrated under a stream of nitrogen to give the required product, 16.2 mg, as a colourless oil. LCMS [LCMS2] Rt 1.33 min, m/z (ES+) 462 (M+H).

reactant | methyl 5-(N-(2,4-dimethylphenyl)-N-isobutylsulfamoyl)-2-((tetrahydro-2H-pyran-4-yl)methoxy)benzoate | 0.041 mmol, 20 mg | CC1=C(C=CC(=C1)C)N(S(=O)(=O)C=1C=CC(=C(C(=O)OC)C1)OCC1CCOCC1)CC(C)C | C26H35NO6S
reactant | lithium triethylborohydride | C(C)[BH-](CC)CC.[Li+]
reactant | HCl | Cl | ClH
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | THF | 0.041 mmol, 1.1 M, 0.037 mL | O1CCCC1 | C4H8O
product | N-(2,4-dimethylphenyl)-3-(hydroxymethyl)-N-isobutyl-4-((tetrahydro-2H-pyran-4-yl)methoxy)benzenesulfonamide | CC1=C(C=CC(=C1)C)N(S(=O)(=O)C1=CC(=C(C=C1)OCC1CCOCC1)CO)CC(C)C | C25H35NO5S
